* C:\users\david\My Documents\homework\ECE_302\lab\SPICE\Lab1a_transformer.asc
V1 N003 0 SINE(0 170 60)
L1 N004 0 2.5
R1 N004 N003 0.1
R2 N006 N005 0.1
R3 N007 N010 0.1
L3 N010 0 43.8m
D1 RECT_- N006 D
D2 N006 RECT_+ D
D3 RECT_- N007 D
D4 N007 RECT_+ D
C1 RECT_+ 0 100µ
C2 0 RECT_- 100µ
D5 N002 N001 D1N4740
R4 N001 RECT_+ 400
R5 N009 RECT_- 350
D6 N009 N008 D1N4740
L2 0 N005 43.8m
R6 0 N002 50µ
R7 0 N008 50µ
R8 N001 0 400
R9 0 N009 400
C3 N009 0 10µ
.model D D
.lib C:\users\david\My Documents\LTspiceXVII\lib\cmp\standard.dio
Ktran L1 L2 L3 0.999
.tran 100m
* Rectifier Stage
* Transformer
* Filter
* V(regulated) = I(peak_ballast) / (freq * C
*1N4740
*Motorola 10V 1W Si Zener pkg:DO-41 1,2
.MODEL D1N4740 D(IS=2.91E-15 RS=2.71 TT=5.01E-8 CJO=6.89E-11 VJ=0.75
+ M=0.33 BV=9.937 IBV=0.025 )
.backanno
.end
